US05637439
1) Synthesis of intermediate (N,N,N',N'-tetramethylchloroformamidinium chloride)
49.4 g of tetramethylurea were dissolved in 400 ml of 1,2-dichloroethane and 30.0 g of oxalyl chloride were added dropwise to the solution at room temperature over a period of 15 minutes. The resulting solution was stirred at room temperature for 15 minutes and further stirred in an oil bath at 65° C. for 2 hrs. The reaction mixture was concentrated under reduced pressure to 200 ml and allowed to cool, upon which crystals separated out. The crystals were obtained by filtration, washed with ether and dried under reduced pressure to obtain 30.0 g of a white, hygroscopic intermediate.

reactant | tetramethylurea | 49.4 g | CN(C(N(C)C)=O)C | C5H12N2O
reactant | oxalyl chloride | 30.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | 1,2-dichloroethane | 400 ml | ClCCCl | C2H4Cl2
product | N,N,N',N'-tetramethylchloroformamidinium chloride | [Cl-].CN(C(=[N+](C)C)Cl)C | InChI=1S/C5H12ClN2.ClH/c1-7(2)5(6)8(3)4;/h1-4H3;1H/q+1;/p-1
